US09102598B2
Step 1: Preparation of 3,3-dimethyl-indan-1-one
A solution of 25.0 g (0.25 moles) of 3,3-dimethyl acrylic acid in 250 ml of benzene was cooled to 0° C. in an ice bath. To this solution, 99 g (0.75 moles) of anhydrous aluminum chloride was slowly added using a spatula over a period of 20 minutes with stirring, after which the ice bath was removed and the reaction mixture was gradually heated to reflux. The reaction mixture was refluxed for ˜7-8 h, then excess benzene was distilled off and the mixture was quenched with ice-cold dilute hydrochloric acid (HCl). The mixture was then diluted with ethylacetate (100 ml), the organic layer was separated and the aqueous layer was again washed with ethyl acetate (50 ml). The combined organic layer was washed with water (3×100 ml) until the pH was neutral, and then dried over anhydrous sodium sulfate and concentrated under vacuum. 43.0 g of reddish brown liquid was obtained, which was distilled under vacuum to give 29 g of the desired product, 3,3-dimethyl-indan-1-one (distilled at 82-84° C. at ˜10 mm). Yield=73%, purity=99%. 1H NMR (DMSO-d6, 300 MHz): δ 7.3-7.8 (m, 4H, Ar-H), δ 2.5 (s, 2H, O═C—CH2), δ 1.3 (s, 6H, —CH3). LC/MS: 161 (M+1).

reactant | 3,3-dimethyl acrylic acid | 0.25 moles, 25.0 g | CC(=CC(=O)O)C | C5H8O2
reactant | aluminum chloride | 0.75 moles, 99 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 3,3-dimethyl-indan-1-one | 43.0 g, Yield=73% | CC1(CC(C2=CC=CC=C12)=O)C | C11H12O
